US06399601B1
3-Bromo-4H-furo[3,2-b]pyrrole-5-carboxylic Acid Ethyl Ester
4-Bromo-2-furaldehyde was annulated according to Procedure H (aldehyde and azido-acetic add ethyl ester added as ethanol solution (1 M of ester) to −20° C. ethoxide solution; −20° C. 35 min, −5° C. 1.5 h, 5° C. 15 min; reaction poured into cold saturated aqueous NH4Cl; after ether extraction, acrylate organic phase washed with water until aqueous phase was neutral; 0.5 M solution of crude acrylate heated).

reactant | 4-Bromo-2-furaldehyde | BrC=1C=C(OC1)C=O | C5H3BrO2
reactant | ethoxide | [O-]CC
reactant | NH4Cl | [NH4+].[Cl-]
reactant | acrylate | C(C=C)(=O)[O-]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 1 M | C(C)O | C2H6O
product | 3-Bromo-4H-furo[3,2-b]pyrrole-5-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CC2=C(N1)C(=CO2)Br | C9H8BrNO3
